US07700655B2
(1) 2-Acetoxy-4-chlorobenzoic acid
Using 4-chlorosalicylic acid, concentrated sulfuric acid and acetic anhydride as the raw materials, the same operation as the Example 34(1) gave the title compound.

reactant | 4-chlorosalicylic acid | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetoxy-4-chlorobenzoic acid | Yield: 88.1% | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1)Cl | C9H7ClO4
